US06864284B2
6-Deoxyascorbate proline is synthesized by the exact procedure described above for 6-deoxyascorbate lysine. 6-Deoxybromo ascorbate (8 mmoles) is reacted with proline (10 mmoles) in dry pyridine to give 6-deoxyascorbate proline. The product is crystallized form ethanol, dried in vacuum.

reactant | 6-deoxyascorbate lysine | N[C@@H](CCCCN)C(=O)O.O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)C
reactant | 6-Deoxybromo ascorbate | 8 mmoles | Br[C@]1(C(=C(C(=O)O1)O)[O-])[C@@H](O)C
reactant | proline | 10 mmoles | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-deoxyascorbate proline | N1[C@H](C(=O)O)CCC1.O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)C | InChI=1S/C6H8O5.C5H9NO2/c1-2(7)5-3(8)4(9)6(10)11-5;7-5(8)4-2-1-3-6-4/h2,5,7-9H,1H3;4,6H,1-3H2,(H,7,8)/p-1/t2-,5+;4-/m00/s1
